US07691855B2
4-Hydroxy-1-methylpiperidine (11.5 g, 0.1 mol) is dissolved in 250 mL dichloromethane. A solution of 100 g NaOH in 100 mL of water is added followed by 17.2 g (0.1 mol) 3-nitro-benzylchloride and a catalytic amount of benzyl-triethylammonium chloride. The mixture is stirred very efficiently during 2 h at rt and then poured into 300 mL of ice-cold water. The organic layer is separated and the organic phase extracted once more with dichloromethane. The organic phase is extracted with 1N HCl (2×200 mL) and the aqueous extracts adjusted to pH 9-10 by the addition of solid sodium carbonate. The basic solution is extracted with ethyl acetate (2×200 mL) and the organic phase washed with brine, dried over potassium carbonate and evaporated. 1-Methyl-4-(3-nitro-benzyloxy)-piperidine is obtained as brown viscous oil. HPLC: 1.35 (System XS); [M+H]+ 251.0.

reactant | 4-Hydroxy-1-methylpiperidine | 0.1 mol, 11.5 g | OC1CCN(CC1)C | C6H13NO
reactant | NaOH | 100 g | [OH-].[Na+]
reactant | 3-nitro-benzylchloride | 0.1 mol, 17.2 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
catalyst | benzyl-triethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-Methyl-4-(3-nitro-benzyloxy)-piperidine | CN1CCC(CC1)OCC1=CC(=CC=C1)[N+](=O)[O-] | C13H18N2O3
